US05843957
Preparation of N-[1-butyl-4-[3-{2-(2-pyridyl)ethoxy}phenyl]-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N'-(2,6-diisopropylphenyl)urea
To a solution of N-[1-butyl-4-(3-hydroxyphenyl)-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N'-(2,6-diisopropylphenyl)urea (300 mg, 0.58 mmol), 2-pyridinethanol (71 mg, 0.58 mmol) in THF (5 ml) were added triphenylphosphine (152 mg, 0.58 mmol), and diethyl azodicarboxylate (101 mg, 0.58 mmol), and the mixture was stirred at room temperature for 40 hours. The mixture was poured into water, and extracted with ethyl acetate. The extract was washed with water, washed with a saturated aqueous sodium chloride solution, and dried over anhydrous magnesium sulfate. The resultant was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate:hexane=5:5) and thin layer chromatography to give the title compound (43 mg, 0.07 mmol).

reactant | N-[1-butyl-4-(3-hydroxyphenyl)-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N'-(2,6-diisopropylphenyl)urea | 0.58 mmol, 300 mg | C(CCC)N1C(C(=C(C2=CC=CN=C12)C1=CC(=CC=C1)O)NC(=O)NC1=C(C=CC=C1C(C)C)C(C)C)=O | C31H36N4O3
reactant | 2-pyridinethanol | 0.58 mmol, 71 mg | N1=C(C=CC=C1)CCO | C7H9NO
reactant | triphenylphosphine | 0.58 mmol, 152 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.58 mmol, 101 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | N-[1-butyl-4-[3-{2-(2-pyridyl)ethoxy}phenyl]-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N'-(2,6-diisopropylphenyl)urea | 0.07 mmol, 43 mg | C(CCC)N1C(C(=C(C2=CC=CN=C12)C1=CC(=CC=C1)OCCC1=NC=CC=C1)NC(=O)NC1=C(C=CC=C1C(C)C)C(C)C)=O | C38H43N5O3
